US04795754
Sodium hydroxide (1.72 g; 43 mmol) was dissolved in methanol (100 ml), 3-(1H-tetrazol-5-yl)oxanilic acid (5 g; 21.5 mmol) was added thereto and the mixture was stirred for 1 hour at room temperature. The reaction solution was poured into 300 ml of ethyl ether at room temperature with stirring, the precipitated crystals were filtered off and were dried at 40° C. in vacuo in the presence of phosphorous pentoxide to obtain 5 g (yield 85%) of disodium 3-(1H-tetrazol-5-yl)oxanilate. Decomposition point: not less than 300° C.

reactant | Sodium hydroxide | 43 mmol, 1.72 g | [OH-].[Na+]
reactant | 3-(1H-tetrazol-5-yl)oxanilic acid | 21.5 mmol, 5 g | N1N=NN=C1C=1C=C(NC(C(=O)O)=O)C=CC1 | C9H7N5O3
reactant | ethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | methanol | 100 ml | CO | CH4O
product | disodium 3-(1H-tetrazol-5-yl)oxanilate | 5 g, yield 85% | N1N=NN=C1C=1C=C(NC(C(=O)[O-])=O)C=CC1.[Na+].[Na+].N1N=NN=C1C=1C=C(NC(C(=O)[O-])=O)C=CC1 | InChI=1S/2C9H7N5O3.2Na/c2*15-8(9(16)17)10-6-3-1-2-5(4-6)7-11-13-14-12-7;;/h2*1-4H,(H,10,15)(H,16,17)(H,11,12,13,14);;/q;;2*+1/p-2
